### PR TITLE
[Merged by Bors] - feat(RingTheory/Extension/Presentation): add `relation_comp_localizationAway_inl`

### PR DESCRIPTION
**Pull request by chrisflav**
Co-authored by: Andrew Yang <the.erd.one@gmail.com>

---

- [x] depends on: #30954 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean [hunk 1]
```diff
@@ -405,6 +405,15 @@ theorem univ_sum_single_apply' [AddCommMonoid M] [Fintype α] (i : α) (m : M) :
...
 
+lemma sum_single_add_single (f₁ f₂ : ι) (g₁ g₂ : A) (F : ι → A → B) (H : f₁ ≠ f₂)
+    (HF : ∀ f, F f 0 = 0) :
+    sum (single f₁ g₁ + single f₂ g₂) F = F f₁ g₁ + F f₂ g₂ := by
+  classical
+  by_cases hg₁ : g₁ = 0
+  · simp [hg₁, HF]
+  by_cases hg₂ : g₂ = 0
+  · simp [hg₂, HF]
+  simp [Finsupp.sum, Finsupp.support_single_add_single H hg₁ hg₂, single_apply, H, H.symm]
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Finsupp/Basic.lean]:
```suggestion
  classical
  simp +contextual [sum_of_support_subset _ (s := {f₁, f₂}) (support_add.trans _),
    Finset.subset_iff, single_apply, or_imp, H, HF, H.symm]
```

File: Mathlib/Algebra/Group/Finsupp.lean [hunk 2]
```diff
@@ -136,6 +136,13 @@ lemma support_add_single {a : ι} {b : M} {f : ι →₀ M} (ha : a ∉ f.suppor
   rw [support_add_eq, H, union_comm, cons_eq_insert, insert_eq]
   rwa [H, disjoint_singleton_right]
 
+lemma support_single_add_single [DecidableEq ι] {f₁ f₂ : ι} {g₁ g₂ : M}
+    (H : f₁ ≠ f₂) (hg₁ : g₁ ≠ 0) (hg₂ : g₂ ≠ 0) :
+    (single f₁ g₁ + single f₂ g₂).support = {f₁, f₂} := by
+  rw [support_add_eq, support_single_ne_zero _ hg₁, support_single_ne_zero _ hg₂]
+  · simp [pair_comm f₂ f₁]
+  · simp [support_single_ne_zero _ hg₁, support_single_ne_zero _ hg₂, H.symm]
```
Comment (erdOne) [inline Mathlib/Algebra/Group/Finsupp.lean:144]: A subset version without the hypotheses might also be useful.

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 3]
```diff
@@ -667,6 +667,13 @@ theorem aeval_prod {ι : Type*} (s : Finset ι) (φ : ι → MvPolynomial σ R)
     aeval f (∏ i ∈ s, φ i) = ∏ i ∈ s, aeval f (φ i) :=
   map_prod (MvPolynomial.aeval f) _ _
 
+@[simp]
+lemma aeval_C_comp_left {ι S : Type*} [CommSemiring S] [Algebra R S]
+    (f : σ → S) (p : MvPolynomial σ R) :
+    aeval (R := R) (C (σ := ι) ∘ f) p = C (aeval f p) := by
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Eval.lean]:
```suggestion
    aeval (C (σ := ι) ∘ f) p = C (aeval f p) :=
```
I think this just works?

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 4]
```diff
@@ -667,6 +667,13 @@ theorem aeval_prod {ι : Type*} (s : Finset ι) (φ : ι → MvPolynomial σ R)
...
+  rw [← MvPolynomial.algebraMap_eq, Function.comp_def]
+  simp_rw [← IsScalarTower.toAlgHom_apply R S (MvPolynomial ι S), comp_aeval_apply]
```
Comment (erdOne) [inline Mathlib/Algebra/MvPolynomial/Eval.lean]:
```suggestion
  aeval_algebraMap_apply ..
```

File: Mathlib/RingTheory/Extension/Generators.lean [hunk 5]
```diff
@@ -662,6 +662,11 @@ lemma ker_comp_eq_sup (Q : Generators S T ι') (P : Generators R S ι) :
     ← algebraMap_self_apply (MvPolynomial.aeval _ x)]
   rw [← Generators.Hom.algebraMap_toAlgHom (Q.ofComp P), hx, map_zero]
 
+lemma toAlgHom_ofComp_localizationAway (g : S) [IsLocalization.Away g T] :
+    ((localizationAway T g).ofComp P).toAlgHom
+      ((rename Sum.inr) (P.σ g) * X (Sum.inl ()) - 1) = C g * X () - 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Generators.lean]:
```suggestion
      (rename Sum.inr (P.σ g) * X (Sum.inl ()) - 1) = C g * X () - 1 := by
```

File: Mathlib/Algebra/BigOperators/Finsupp/Basic.lean [hunk 6]
```diff
@@ -405,6 +405,12 @@ theorem univ_sum_single_apply' [AddCommMonoid M] [Fintype α] (i : α) (m : M) :
   classical rw [Finset.sum_pi_single]
   simp
 
+lemma sum_single_add_single (f₁ f₂ : ι) (g₁ g₂ : A) (F : ι → A → B) (H : f₁ ≠ f₂)
+    (HF : ∀ f, F f 0 = 0) :
+    sum (single f₁ g₁ + single f₂ g₂) F = F f₁ g₁ + F f₂ g₂ := by
+  classical
+  simp +contextual [sum_of_support_subset _ (s := {f₁, f₂}) (support_add.trans _),
+    Finset.subset_iff, single_apply, or_imp, H, HF, H.symm]
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Finsupp/Basic.lean]:
```suggestion
  simp +contextual [sum_of_support_subset _ support_single_add_single_subset,
    Finset.subset_iff, single_apply, or_imp, H, HF, H.symm]
```
You can probably do this and remove some of the lemmas on the next line. Potentially even `+contextual`.

**Review by erdOne — APPROVED** [review]
LGTM
Though I am somehow a co-author so I will refrain from merging this.
